US09353107B2
Step-i: 5-bromo-2-methoxy-N-methylbenzenesulfonamide
To a stirred ice cold mixture of methylamine hydrochloride (231.1 mg, 3.5 mmol), triethylamine (1.26 mL, 8.755 mmol) in DCM was added a solution of 5-bromo-2-methoxybenzene-1-sulfonyl chloride (500 mg, 1.751 mmol) in DCM at 0° C. This was stirred at RT for three hours. This mixture was then poured on to ice cold water and extracted with DCM, dried over sodium sulfate and concentrated to get 400 mg (81.63% yield) of titled compound.

reactant | methylamine hydrochloride | 3.5 mmol, 231.1 mg | Cl.CN
reactant | triethylamine | 8.755 mmol, 1.26 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-2-methoxybenzene-1-sulfonyl chloride | 1.751 mmol, 500 mg | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-methoxy-N-methylbenzenesulfonamide | 400 mg, 81.63% yield | BrC=1C=CC(=C(C1)S(=O)(=O)NC)OC | C8H10BrNO3S
